US08283353B2
methyl 2′-cyano-3-methoxybiphenyl-4-carboxylate
A suspension of methyl 4-bromo-2-methoxybenzoate (4.9 g), (2-cyanophenyl)boronic acid (5.9 g), Pd(dppf)2Cl2 (0.49 g) and 2M aqueous cesium carbonate solution (20 mL) in tetrahydrofuran (60 mL) was stirred under an argon atmosphere at 70° C. for 3 hr. The mixture was allowed to cool, ethyl acetate and water were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (1.9 g, 35%).

reactant | methyl 4-bromo-2-methoxybenzoate | 4.9 g | BrC1=CC(=C(C(=O)OC)C=C1)OC | C9H9BrO3
reactant | (2-cyanophenyl)boronic acid | 5.9 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | cesium carbonate | 2M, 20 mL | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | Pd(dppf)2Cl2 | 0.49 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
product | methyl 2′-cyano-3-methoxybiphenyl-4-carboxylate | 1.9 g, 35% | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OC)OC | C16H13NO3
